datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O:10]C(CC)C([H])C(C8=CC=CC=C8)[S][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
"CN([C:20](=[O:10])OC)[H].[O-:21]CC>>CN([C:20]([O-:10])(OC)[O:21]CC)[H] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"CCC1C(C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)[H])CCCCCC>>CCC1C(C(O[C:20](=[O:10])N1[H])[H])CCCCCC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)[H])[H]>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)[H])[H].[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"C[O+:10]([Li])[C:21]([O-:20])(OC1=CC=CC=C1)OCC>>[O:20]=[C:21](OC1=CC=CC=C1)OCC.C[O:10][Li] 20=21;21,10=10"
"[H][O+:10](C(CC)C([H])C(CC)[NH]1)[C:20]1([NH:21]C)[NH]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(CC)[NH][C:20]([NH]C)=[NH+:21]C 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])[NH]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)[H])C)C1=CC=CC=C1)[O-:10])[H]>>CN([C:20](=[O:10])OC(C(C([O-:21])[H])C)C1=CC=CC=C1)[H] 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(CC)C([H])[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(CC)C([H])[S]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1 10=20;20,21=21"
"CCC1C(O[C:20](=[O:10])N1CC)CC.[O-:21]CCCCCC>>CCC1C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)CC 21=20;20,10=10"
"[H][O+:10](C([H])C([H])C(C)[O]1)[C:20]1([NH:21][H])[NH]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(C)[O][C:20]([NH]CC)=[NH+:21][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(CC)[O]2.[H][O:10][H] 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21][H])[O]C(C)C(C)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(C)C(C)[O]2.CC[S:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(CC)[O]2.[H][O:10][H] 21=20;20,10=10"
"[O-:10]C([H])C(C)/C(C)=C(C)\[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)=C(C)C(C)C([H])[O:10]1 10=20;20,21=21"
"CC[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C8=CC=CC=C8)[S]CC.[Cl-]>>[Cl-].CC[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C8=CC=CC=C8)[S]CC 21=20;20,10=10"
"C[O:10][H].CC[NH+:21]=[C:20]([O][H])[O][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21]CC)([O][H])[O][H] 10=20;20,21=21"
"C9=CC=CC=C9[NH:10][H].[H][NH+:21]=[C:20]([NH]CC)[NH]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21][H])([NH]CC)[NH]CC 10=20;20,21=21"
"[NH:10]([H])C(CC)C(C)/C([H])=C([H])\[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])=C([H])C(C)C(CC)[NH+:10]1([H]) 10=20;20,21=21"
"C[S:10][H].C[O+:21]=[C:20]([O][H])[S]C.[Cl-]>>[Cl-].C[S+:10]([H])[C:20]([O:21]C)([O][H])[S]C 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C(C)[CH](C)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C(C)[S]2.C[O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C(C)C([H])=C([H])C([H])[O:10]1>>[O-:10]C([H])/C([H])=C([H])\C(C)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([O:21]C)[S][CH](CC)C(C)[CH](CC)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](CC)[CH](C)C(CC)[S]2.[H][O:10][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C([H])[CH](C)[O]1 10=20;20,21=21"
"[O:10]([Na])C(CCC)/C(C)=C([H])\C([H])[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])C([H])=C(C)C(CCC)[O+:10]1([Na]) 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C([O:21]1)C)CCCCCC)[O-:10])C1=CC=CC=C1>>CCCCCCN([C:20](=[O:10])OC(C([O-:21])C)CCCCCC)C1=CC=CC=C1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C([H])[CH](C)[O]1 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1[H])CCCCCC)CCCCCC.[O-:21]C>>[H]C1C(C(O[C:20](N1[H])([O-:10])[O:21]C)CCCCCC)CCCCCC 21=20;20,10=10"
"[NH:10](C)C(C)C([H])/C(C)=C(C)\[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)=C(C)C([H])C(C)[NH+:10]1(C) 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([O:21]C)([O]C)[O][H].[Cl-]>>[Cl-].[H][O:10][H].C[O+:21]=[C:20]([O]C)[O][H] 21=20;20,10=10"
"[H][NH+:10](C([H])C([H])[O]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])[O][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]CC)[S]CC.[Cl-]>>[Cl-].CC[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]CC)[S]CC 21=20;20,10=10"
"[H][O+:10](C([H])C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(CC)[NH][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C(C)C(O)C(O)C(CC)[NH+:10]1([H])>>[NH:10]([H])C(CC)C(O)C(O)C(C)[C:20](OCC)=[O:21] 21=20;20,10=10"
